US07858623B2
Step 3: N-(4-(4-amino-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide.
N-(4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide (0.180 g, 0.52 mmol) was dissolved in a mixture of 3:1 ethanol/water (4 ml) with stirring. Then iron (0.160 g, 2.8 mmol) and ammonium chloride (0.016 g, 0.30 mmol) was added to the mixture. The mixture was placed in a pre-heated oil-bath (80° C.) for 1 hour. The oil bath was removed, and the mixture was allowed to cool to ambient temperature. The mixture was filtered through filter diskette. The flask was rinsed with methanol (3×10 ml), and the combined filtrate was evaporated in-vacuo. The residue was diluted with dichloromethane and 1N NaOH (2 ml). The organic were extracted with dichloromethane (3×10 ml), dried over sodium sulfate, filtered and concentrated in vacuo. to give the desired product N-(4-(4-amino-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide (0.125 g, 0.4 mmol, 76% yield) as a tan oil. MS (ESI pos. ion) m/z: 317 (MH+). Calc'd exact mass for C16H17FN4O2: 316. 1HNMR (300 MHz, CDCl3): 1.96 (s, 4H), 3.44 (s, 4H), 6.52 (d, J=3.07 Hz, 2H), 6.96 (s, 1H), 7.26 (s, 1H), 7.67 (s, 1H), 8.01 (d, J=5.70 Hz, 1H).

reactant | N-(4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide | 0.52 mmol, 0.180 g | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C16H15FN4O4
reactant | ammonium chloride | 0.30 mmol, 0.016 g | [Cl-].[NH4+]
solvent | ethanol water | 4 ml | C(C)O.O
catalyst | iron | 2.8 mmol, 0.160 g | [Fe] | Fe
product | N-(4-(4-amino-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide | 0.4 mmol, 0.125 g, 76% yield | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
